US07906517B2
4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-tetrazol-2-yl}-butyric acid (154 mg) is dissolved in ethanol (3 ml), and thereto is added 1M-aqueous sodium hydroxide solution (225 μl), and concentrated under reduced pressure to give 4-{5-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-tetrazol-2-yl}-butyric acid sodium salt (153 mg). MS (m/z): 702 [M−Na]+

reactant | 4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-tetrazol-2-yl}-butyric acid | 154 mg | FC(C=1C=C(CN(C=2N=NN(N2)CCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C32H30F9N5O3
reactant | sodium hydroxide | 225 μl | [OH-].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-{5-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-tetrazol-2-yl}-butyric acid sodium salt | 153 mg | [Na+].FC(C=1C=C(CN(C=2N=NN(N2)CCCC(=O)[O-])CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C32H30F9N5O3.Na/c1-18(2)20-6-9-27(49-3)26(14-20)25-8-7-22(30(33,34)35)13-21(25)17-45(29-42-44-46(43-29)10-4-5-28(47)48)16-19-11-23(31(36,37)38)15-24(12-19)32(39,40)41;/h6-9,11-15,18H,4-5,10,16-17H2,1-3H3,(H,47,48);/q;+1/p-1
